US05364871
A mixture of 2-(acetylaminometyl)-6-bromoacetylpyridine hydrobromide (3.34 g) and diaminomethylenethiourea (1.01 g) in methanol (50 ml) was refluxed for 10 hours with stirring. The resulting precipitate was collected, dissolved in water (50 ml) and the solution was made basic with aqueous potassium carbonate. The separated product was collected and washed with water to give 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (0.90 g).

reactant | 2-(acetylaminometyl)-6-bromoacetylpyridine hydrobromide | 3.34 g | Br.C(C)(=O)NCC1=NC(=CC=C1)C(CBr)=O
reactant | diaminomethylenethiourea | 1.01 g | NC(N)=NC(=S)N | C2H6N4S
solvent | methanol | 50 ml | CO | CH4O
product | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 0.90 g | NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C10H12N6S
